US08735402B2
(f) Benzyl 3-{4-[5-(3-chlorophenoxy)oxazolo[5,4-d]pyrimidin-2-yl]-2,6-dimethylphenoxy}cyclobutanecarboxylate
48 mg of potassium carbonate and 20 mg of 3-chlorophenol were added to a solution of 70 mg of benzyl 3-[4-(5-methanesulfonyloxazolo[5,4-d]pyrimidin-2-yl)-2,6-dimethylphenoxy]cyclobutanecarboxylate in 5 ml of N,N-dimethylformamide. The reaction mixture was stirred at room temperature for 1.5 h and at 60° C. for a further 4 h. For work-up, 10% strength aqueous citric acid solution was added, and the reaction was extracted with dichloromethane. The combined organic phases were concentrated and dried under reduced pressure. This gave 77 mg (100%) of the title compound, which was reacted further without any purification.

reactant | potassium carbonate | 48 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 3-chlorophenol | 20 mg | ClC=1C=C(C=CC1)O | C6H5ClO
reactant | benzyl 3-[4-(5-methanesulfonyloxazolo[5,4-d]pyrimidin-2-yl)-2,6-dimethylphenoxy]cyclobutanecarboxylate | 70 mg | CS(=O)(=O)C=1N=CC2=C(N1)OC(=N2)C2=CC(=C(OC1CC(C1)C(=O)OCC1=CC=CC=C1)C(=C2)C)C | C26H25N3O6S
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | Benzyl 3-{4-[5-(3-chlorophenoxy)oxazolo[5,4-d]pyrimidin-2-yl]-2,6-dimethylphenoxy}cyclobutanecarboxylate | ClC=1C=C(OC=2N=CC3=C(N2)OC(=N3)C3=CC(=C(OC2CC(C2)C(=O)OCC2=CC=CC=C2)C(=C3)C)C)C=CC1 | C31H26ClN3O5
